US07271274B2
2,6-Di-tert-butyl-4-[1-(3,5-di-tert-butyl-4-{2-[2-ethoxy-5-(2-hydroxy-ethyl)-[1,3]dioxo-lan-4-yl]-ethoxy}-phenylsulfanyl)-1-methyl-ethylsulfanyl]-phenol (Ex-13D, 4.0 g, 5.7 mmol) was dissolved in methanol (60 mL). Acetic acid (2.8 mL) and water (2.8 mL) were added and the resultant mixture was stirred at reflux for 3 h. The reaction mixture was concentrated under reduced pressure and the residue was diluted with water (100 mL) and extracted with dichloromethane (3×100 mL). The combined organic extracts were dried over sodium sulfate and concentrated to an off-white foam. The residue was dissolved in methanol (60 mL) and potassium carbonate (1.6 g) was added. The mixture was stirred at room temperature for 1.5 h and concentrated under reduced pressure and the residue was diluted with water (100 mL). The solution was extracted with dichloromethane (3×100 mL), dried over sodium sulfate, and concentrated to a white foam. Following silica gel chromatography (2:1 ethyl acetate:hexanes) gave 2.2 g (65%) of 6-{2,6-di-tert-butyl-4-[1-(3,5-di-tert-butyl-4-hydroxy-phenylsulfanyl)-1-methyl-ethylsulfanyl]-phenoxy}-hexane-1,3,4-triol as a white solid, mp 75–77° C. 1H-NMR (300 MHz, CDCl3) δ7.54 (s, 2H), 7.45 (s, 2H), 5.36 (s, 1H), 3.92–3.99 (m, 4H), 3.78 (brs, 2H), 2.99 (d, 1H, J=3.8 Hz, 2.78 (d, 1H, J=3.8 Hz), 2.15 (t, 1H, J=4.6 Hz), 2.02–2.11 (m, 2H), 1.83–1.85 (m, 2H), 1.43–1.44 (m, 42H). HRMS (ESI) calcd for C37H60O5S2 (M+Na), 671.3780; found, 671.3775. Anal. calcd. for C37H60O5S2: C, 68.47, H, 9.32, S, 9.88; Found: C, 68.62, H, 9.49, S, 9.59.

reactant | 2,6-Di-tert-butyl-4-[1-(3,5-di-tert-butyl-4-{2-[2-ethoxy-5-(2-hydroxy-ethyl)-[1,3]dioxo-lan-4-yl]-ethoxy}-phenylsulfanyl)-1-methyl-ethylsulfanyl]-phenol | 5.7 mmol, 4.0 g | C(C)(C)(C)C1=C(C(=CC(=C1)SC(C)(C)SC1=CC(=C(C(=C1)C(C)(C)C)OCCC1OC(OC1CCO)OCC)C(C)(C)C)C(C)(C)C)O | C40H64O6S2
reactant | Acetic acid | 2.8 mL | C(C)(=O)O | C2H4O2
reactant | water | 2.8 mL | O | H2O
solvent | methanol | 60 mL | CO | CH4O
product | 6-{2,6-di-tert-butyl-4-[1-(3,5-di-tert-butyl-4-hydroxy-phenylsulfanyl)-1-methyl-ethylsulfanyl]-phenoxy}-hexane-1,3,4-triol | 2.2 g, 65% | C(C)(C)(C)C1=C(OCCC(C(CCO)O)O)C(=CC(=C1)SC(C)(C)SC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)C(C)(C)C | C37H60O5S2
